US06908913B2
4-Nitrobenzyl (1S,5R,6S)-2-[5-(2-azidoethyl)thio-7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (853 mg) was prepared in the same manner as in step a) of Example 1, except that 910 mg of 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate and 1.59 g of 5-(2-azidoethyl)thio-7-(pyridin-3-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole were used as the starting compounds.

reactant | 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 910 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | 5-(2-azidoethyl)thio-7-(pyridin-3-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 1.59 g | N(=[N+]=[N-])CCSC1=NC(=C2SC(=CN21)[Sn](CCCC)(CCCC)CCCC)C(=O)C=2C=NC=CC2
product | 4-Nitrobenzyl (1S,5R,6S)-2-[5-(2-azidoethyl)thio-7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 853 mg | N(=[N+]=[N-])CCSC1=NC(=C2SC(=CN21)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C)C(=O)C=1C=NC=CC1 | C30H26N8O7S2
